US07858640B2
2-chloro-3-(4-chlorobenzyl)-4,7-dimethylquinolin-5-ol
A solution of 3-(4-chlorobenzyl)-5-hydroxy-4,7-dimethyl-1H-quinolin-2-one (1.8 g) in phosphorus oxychloride (9.0 mL) was heated at 180° C. in a microwave reactor for 15 minutes. The solution was poured onto a mixture of ice and water and the resulting precipitate collected by filtration, washed with water and then dried to afford title compound, 2.3 g.

reactant | 3-(4-chlorobenzyl)-5-hydroxy-4,7-dimethyl-1H-quinolin-2-one | 1.8 g | ClC1=CC=C(CC=2C(NC3=CC(=CC(=C3C2C)O)C)=O)C=C1 | C18H16ClNO2
reactant | water | O | H2O
reactant | phosphorus oxychloride | 9.0 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-chloro-3-(4-chlorobenzyl)-4,7-dimethylquinolin-5-ol | ClC1=NC=2C=C(C=C(C2C(=C1CC1=CC=C(C=C1)Cl)C)O)C | C18H15Cl2NO
